US07091214B2
A solution of 7-bromo-4-chloro-3-nitroquinoline (140.00 g, 486.96 mmol) in chloroform (2.8 L) was cooled to 0° C. Triethylamine (82.0 mL, 588 mol) and ethylenediamine (35.75 mL, 535.6 mmol) were sequentially added; the resulting mixture was stirred for one hour at 0° C. then allowed to warm to ambient temperature and stirred for two hours. Additional ethylenediamine (0.1 equivalent) was added, and the reaction was stirred for an additional 1.75 hours. Additional triethylamine (88.0 mL, 631 mmol) followed by a solution of di-tert-butyl dicarbonate (180.0 mL, 779.1 mmol) in chloroform (320 mL) were added, and the reaction was stirred overnight at ambient temperature. Water (750 mL) was added, and the mixture was stirred for 15 minutes. The organic layer was separated and washed with 1% aqueous sodium carbonate (2×750 mL), dried over sodium sulfate, filtered through a layer of CELITE filter aid, and concentrated under reduced pressure. The resulting solid was triturated with hot acetonitrile (5 mL/g at 95° C.), cooled in an ice bath, and isolated by filtration to provide 165.0 g of tert-butyl[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]carbamate as a light yellow solid.

reactant | 7-bromo-4-chloro-3-nitroquinoline | 486.96 mmol, 140.00 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | Triethylamine | 588 mol, 82.0 mL | C(C)N(CC)CC | C6H15N
reactant | ethylenediamine | 535.6 mmol, 35.75 mL | C(CN)N | C2H8N2
reactant | ethylenediamine | 0.1 equivalent | C(CN)N | C2H8N2
reactant | triethylamine | 631 mmol, 88.0 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 779.1 mmol, 180.0 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 2.8 L | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 320 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Water | 750 mL | O | H2O
product | tert-butyl[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]carbamate | 165.0 g | C(C)(C)(C)OC(NCCNC1=C(C=NC2=CC(=CC=C12)Br)[N+](=O)[O-])=O | C16H19BrN4O4
